2170-11-30 05:47:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2170-11-29**] 09:30 AM
 ARTERIAL LINE - START [**2170-11-29**] 12:00 PM
   -cards interrogated pacer; in a fib, no episodes of VT since [**Month (only) **],
   having ectopy now (pacing with pvcs in bigeminal pattern)
   -rec'd fluid boluses, low UOP, received total of 3.5 L IV fluid; CVP
   came up from 2 to 8 and mixed venous sat 78%.
   -loose stool x 2, guaiac neg, sent for c diff
   -pt woke up at midnight, completely lucid (minimally arousable earlier
   in the day)
   -social work consult ordered
   -bubble study ordered because ABGs suggestive of shunt, possibly
   cardiac
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Hives;
   Vancomycin
   Diarrhea;
   Ambien (Oral) (Zolpidem Tartrate)
   Unknown;
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Unknown;
   Cephalexin
   Unknown;
   IV Dye
   Iodine Containing
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2170-11-29**] 12:45 PM
   Meropenem - [**2170-11-29**] 10:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-11-30**] 05:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36
C (96.8
   HR: 93 (70 - 114) bpm
   BP: 106/44(57) {101/38(51) - 135/58(71)} mmHg
   RR: 17 (15 - 26) insp/min
   SpO2: 100%
   Heart rhythm: V Paced
   Wgt (current): 67.2 kg (admission): 67.2 kg
    CVP: 8 (2 - 10)mmHg
   Mixed Venous O2% Sat: 78 - 78
   Total In:
                                                                  4,523 mL
                                                                    379 mL
   PO:
                                                                    100 mL
                                                                    150 mL
   TF:
   IVF:
                                                                  4,423 mL
                                                                    229 mL
   Blood products:
   Total out:
                                                                    665 mL
                                                                    225 mL
   Urine:
                                                                    515 mL
                                                                    225 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,858 mL
                                                                    154 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.29/39/125/19/-6
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   414 K/uL
   8.2 g/dL
   123 mg/dL
   1.7 mg/dL
   19 mEq/L
   4.3 mEq/L
   29 mg/dL
   103 mEq/L
   132 mEq/L
   25.0 %
   11.7 K/uL
        [image002.jpg]
                             [**2170-11-29**]  11:15 AM
                             [**2170-11-29**]  11:39 AM
                             [**2170-11-29**]  01:31 PM
                             [**2170-11-29**]  03:20 PM
                             [**2170-11-29**]  05:00 PM
                             [**2170-11-29**]  05:02 PM
                             [**2170-11-29**]  06:54 PM
                             [**2170-11-29**]  10:59 PM
                             [**2170-11-30**]  03:38 AM
   WBC
   10.9
   11.7
   Hct
   32
   143
   25.1
   25.0
   Plt
   381
   414
   Cr
   2.0
   1.7
   TropT
   0.02
   TCO2
   24
   24
   24
   24
   23
   20
   Glucose
   121
   123
   Other labs: PT / PTT / INR:25.8/55.0/2.5, CK / CKMB /
   Troponin-T:890/11/0.02, Differential-Neuts:84.7 %, Lymph:10.2 %,
   Mono:4.9 %, Eos:0.1 %, Lactic Acid:0.9 mmol/L, Ca++:7.4 mg/dL, Mg++:2.0
   mg/dL, PO4:4.9 mg/dL
   B Cx [**11-29**] pend
   U Cx [**11-29**] pend
   Resp viral screen [**11-29**] pend
   C diff and stool Cx [**11-30**] pend
   NCHCT prelim: no hemorrhage. no acute intracranial process.
   CXR today:
   Assessment and Plan
   75 yo M with h/o cardiomyopahy (EF 15%), atrial fibrillation, pulmonary
   embolism (on coumadin), adrenal insufficiency, and s/p several recent
   admissions following episode of Klebsilella pneumonia complicated by
   respiratory failure and septic shock. Presents to hospital with
   syncope, hypoxia, and hypotension.
   # Hypoxemic respiratory failure:
   Patient was not initially complaining of dyspnea while at home. Upon
   transit to the ED was noted to have a low oxygen sat in the 70s and was
   placed on NRB and subsequently was placed on BiPAP in the ED. While in
   the emergency department, oxygen sats recovered and supplemental oxygen
   was titrated down. On the floor was maintaining oxygen sat of 100% on
   RA; however, initial ABG showed a pO2 of 56. 100% facemask was applied
   and sat increased appropriately to 441. A-a gradient difficult to
   calculate given unknown exact oxygen percent delivery with face mask.
   - Maintain patient on supplemental 3L NC and titrate down as tolerated
   - continue prn albuterol nebs
   - TTE with bubble study to rule-out intracardiac shunt as cause of his
   odd ABG findings of low pO2 despite observed normal sat
   - Consider CT chest in future to rule-out possibility of organizing
   pneumonia causing A-a gradient
   .
   # Hypotension:
   Given patient's acute kidney injury (with FeUrea of 26%), complaint of
   thirst, low urine output, and physical exam consistent with
   dehydration, his hypotension could be solely attributed to hypovolemia.
   Additionally supporting hypovolemia as cause of hypotension is fact
   that his blood pressure dropped with positive pressure non-invasive
   ventilation in ED, which would have decreased his right heart filling
   pressures causing transient severe hypotension. In setting of fever to
   103 in ED, leukocystosis to 12.6, and recent admissions for sepsis,
   must consider that patient septic as cause of his hypotension. Given
   this, it is reasonable to empirically treat with vancomycin and
   meropenem (target toward ESBL Klebsiella identified in prior
   admission). Slightly reassuring that lactate of 1.9 initially trended
   down to 0.9 with initial ABG in MICU. Will consider whether untreated
   stenotrophomonas from [**2170-11-20**] sputum sample should be treated. C
   diff is another possible source, as patient with recent antibiotic
   course for PNA and several episodes loose stools.
   - Norepinephrine to keep MAPs > 65
   - Gently hydrate with 500 mL boluses given EF of 15% and history of
   volume overload, as well as DNR/DNI status
   - continue empiric vancomycin and meropenem pending culture results
   - Follow-up blood and urine cultures
   - f/u c diff and stool studies
   .
   # Altered Mental Status: Improved overnight with MAP > 65 following
   several fluid boluses and increased pressors.  Most likely related to
   decreased perfusion of the brain, although ICU delirium is also a
   possibility given that pt has been in and out of ICU for past several
   months. Will continue to monitor.  NCHCT
   - Continue rehydration and with prn fluid boluses to maintain UOP > 30
   cc/hr and MAP > 65.
   .
   # Fever: Patient noted to be febrile to 103 rectally in the ED.
   Possible that this is component of sepsis with unknown primary source
   vs influenza. No fevers since that time.
   - Empiric vancomycin and meropenem (need to readjust meds as renal
   function worsens or improves)
   - Nasopharyngeal swab for influenza DFA
   - Empiric oseltamivir 75 daily for 5 days pending influenza DFA
   .
   # Syncope:
   Patient's enciting event for hospitalization was fall at home today. No
   known head trauma and unclear history of fall at home, though patient
   sank to ground and felt like he may have lost consciousness.  Pacer
   interrogation did not show cardiac cause of syncope.  Given AMS while
   in ICU in context of hypotension, that is the most likely cause of LOC.
   - Continuous cardiac monitoring
   - Cont to hold digoxin while in [**Last Name (un) **]
   - Treat hypotension as above
   # Acute kidney injury:
   Recent baseline Cr 1.1 - 1.3 upon discharge on [**2170-11-27**]. At
   presentation to the ED was Cr 2.5. Urine lytes performed in ED revealed
   a FeUrea of 26%.  Cr improved to 1.7 today.
   - Continue to trend BUN/Cr
   - Renally dose meds and hold digoxin
   - Hold furosemide
   # Hyponatremia:
   Improved to 128 from 123 at discharge on [**2170-11-27**]. 132 this AM. Will
   monitor with rehydration.
   - Trend sodium
   # COPD:
   [**Last Name (un) **] recent PFTs or overall disease status. Reported to be on home
   supplemental oxygen, though unknown when this was started.
   - Investigate indications for home oxygen and history of COPD
   - Continue home albuterol, tiotropium, fluticasone/salmeterol
   # Anemia with baseline Hct 24, current Hct 28.7:
   Likely elevated from baseline because of hemoconcentration.
   - Maintain active type and screen
   - Trend with rehydration
   # Adrenal insufficiency:
   Patient on 10 mg hydrocortisone at home.
   - Increase to 50 mg hydrocortisone given stress of acute illness
   # h/o PE, on coumadin:
   Remote chance that a transient PE could explain current presentation of
   hypoxia and hypotension.
   # Atrial fibrillation:
   Stable v-paced rhythm on telemetry at this time. Digoxin 0.5 on
   admission labs.
   - Hold digoxin while in acute kidney injury
   - Hold metoprolol while hypotensive
   # Hypertension:
   - Hold home antihypertensives
   # Hyperlipidemia:
   - Hold atorvastatin
   ICU Care
   Nutrition: Regular diet when mentally clear
   Glycemic Control:
   Lines:
   Multi Lumen - [**2170-11-29**] 09:30 AM
   18 Gauge - [**2170-11-29**] 09:30 AM
   Arterial Line - [**2170-11-29**] 12:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2170-11-30 10:32:00 Physician Attending Progress Note
Chief Complaint: SHOCK-Septic or Hypovolemic
   Hypoxia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MULTI LUMEN - START [**2170-11-29**] 09:30 AM
 ARTERIAL LINE - START [**2170-11-29**] 12:00 PM
   -Pacer function--A-fib, not Vt episodes or events to be consistent with
   source of acute event
   -CVP-start at 2 and with IVF bolus at 4 liters had improved urine
   output and with CVP increase to 8 and with ScVO2 at 78 cardiac
   compsomise less likely
   -Patient with improved alertness overnight
   -Vasopressors weaned
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Hives;
   Vancomycin
   Diarrhea;
   Ambien (Oral) (Zolpidem Tartrate)
   Unknown;
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Unknown;
   Cephalexin
   Unknown;
   IV Dye
   Iodine Containing
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2170-11-29**] 12:45 PM
   Meropenem - [**2170-11-29**] 10:00 PM
   Infusions:
   Norepinephrine - 0.25 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Cough, Tachypnea, rare
   Gastrointestinal: No(t) Abdominal pain
   Flowsheet Data as of  [**2170-11-30**] 10:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 94 (71 - 114) bpm
   BP: 106/44(57) {101/38(51) - 106/44(57)} mmHg
   RR: 23 (15 - 26) insp/min
   SpO2: 100%
   Heart rhythm: V Paced
   Wgt (current): 67.2 kg (admission): 67.2 kg
   CVP: 11 (2 - 11)mmHg
   Mixed Venous O2% Sat: 78 - 78
   Total In:
                                                                  4,524 mL
                                                                    899 mL
   PO:
                                                                    100 mL
                                                                    430 mL
   TF:
   IVF:
                                                                  4,424 mL
                                                                    469 mL
   Blood products:
   Total out:
                                                                    665 mL
                                                                    555 mL
   Urine:
                                                                    515 mL
                                                                    555 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,859 mL
                                                                    344 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.29/39/125/19/-6
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant), (Murmur: Systolic), [**2-2**]
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: , Rhonchorous: bilateral and diffusely)
   Abdominal: Soft, Non-tender
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.2 g/dL
   414 K/uL
   123 mg/dL
   1.7 mg/dL
   19 mEq/L
   4.3 mEq/L
   29 mg/dL
   103 mEq/L
   132 mEq/L
   25.0 %
   11.7 K/uL
        [image002.jpg]
                             [**2170-11-29**]  11:15 AM
                             [**2170-11-29**]  11:39 AM
                             [**2170-11-29**]  01:31 PM
                             [**2170-11-29**]  03:20 PM
                             [**2170-11-29**]  05:00 PM
                             [**2170-11-29**]  05:02 PM
                             [**2170-11-29**]  06:54 PM
                             [**2170-11-29**]  10:59 PM
                             [**2170-11-30**]  03:38 AM
   WBC
   10.9
   11.7
   Hct
   32
   143
   25.1
   25.0
   Plt
   381
   414
   Cr
   2.0
   1.7
   TropT
   0.02
   TCO2
   24
   24
   24
   24
   23
   20
   Glucose
   121
   123
   Other labs: PT / PTT / INR:25.8/55.0/2.5, CK / CKMB /
   Troponin-T:890/11/0.02, Differential-Neuts:84.7 %, Lymph:10.2 %,
   Mono:4.9 %, Eos:0.1 %, Lactic Acid:0.9 mmol/L, Ca++:7.4 mg/dL, Mg++:2.0
   mg/dL, PO4:4.9 mg/dL
   Fluid analysis / Other labs: AG-10
   Imaging: CXR-Small increase in bilateral pulmonary infiltrates
   CT HEad--no acute process
   Microbiology: Influenza-Negative
   Assessment and Plan
   75 yo male with admission with quite significant hypoxemia with rapid
   resolution and a real minimum of radiographic findings on CXR
   concerning for extrapulmonary shunting.  He did have admission
   additionally significant for hypotension in the setting of cardiac
   dysfunction and hypovolemia with only a single fever arguing strongly
   for infectious or septic source of shock.  With intervention he has
   shown substantial improvement in the past 24 hours. However, patient
   does retain significant hypotension with wean of pressors and we will
   need to further optimize cardiac output to maintain adequate MAP.
   1)SHOCK-Septic or Hypovoelmic--at admission.  We do have concern for
   signfiant contribution from cardiogenic source of hypotension at this
   time but with preserved central venous O2 sat this would seem to be
   less likely.  With his hypotension we will have to continue to titrate
   down pressors and maintain an effective cardiac output.
   -Sputum sent for culture
   -Continue ABX
   -IVF bolus as needed for fall in CVP or decrease in urine output
   -Will continue with pacer at current settings and will have to tolerate
   the bigeminy seen although it dose lead to a realtively high frequency
   of ineffective SV with PVC
s.  I would argue that we need stabilization
   of SVR to allow full and effective wean of pressors to allow cardiac
   output to allow stability.
   -Return to po intake but will have to maintain fluid balance as even in
   the setting of diarrhea
   -Continue with stress dose steroids
   2)Acute Renal Failure--Improved urine flow and improved creatinine
   -Continue to support BP and effective fluid replacement
   3)ATRIAL FIBRILLATION (AFIB)-
   -Continue with digoxin at this time
   4)ALTERED MENTAL STATUS (NOT DELIRIUM)-
   -Resolved
   5)CARDIOMYOPATHY, OTHER
   -Digoxin to resume
   6)Pulmonary Embolus-
   -Return to Coumadin
   ICU Care
   Nutrition: PO diet
   Glycemic Control:
   Lines:
   Multi Lumen - [**2170-11-29**] 09:30 AM
   18 Gauge - [**2170-11-29**] 09:30 AM
   Arterial Line - [**2170-11-29**] 12:00 PM
   Prophylaxis:
   DVT: SQ heparin
   Stress ulcer: PO diet
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI
   Disposition :ICU
   Total time spent: 45

2170-12-01 07:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2170-11-30**] 08:35 AM
   - restarted on coumadin
   - off precautions and d/'c tamiflu as flu neg
   - restarted digoxin
   - CV sat at 5pm was 58 (suggesting more cardiogenic shock then septic)
   with good UOP so increased pressors and at 8pm it was 70.
   if goes into arrythmia, may consider change to dobutamine
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Hives;
   Vancomycin
   Diarrhea;
   Ambien (Oral) (Zolpidem Tartrate)
   Unknown;
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Unknown;
   Cephalexin
   Unknown;
   IV Dye
   Iodine Containing
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2170-11-29**] 12:45 PM
   Meropenem - [**2170-12-1**] 06:00 AM
   Infusions:
   Norepinephrine - 0.15 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Albuterol 0.083% Neb Soln 4. Digoxin 5. Fluticasone-Salmeterol Diskus
   (250/50) 6. Fluticasone Propionate 110mcg
   7. Hydrocortisone Na Succ. 8. Meropenem 9. Norepinephrine 10. Sodium
   Chloride 0.9% Flush 11. Sodium Chloride 0.9% Flush
   12. Tiotropium Bromide 13. Vancomycin 14. Warfarin
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-12-1**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.3
C (97.4
   HR: 86 (75 - 116) bpm
   BP: 106/44(57) {0/0(0) - 0/0(0)} mmHg
   RR: 29 (20 - 30) insp/min
   SpO2: 95%
   Heart rhythm: V Paced
   Wgt (current): 67.2 kg (admission): 67.2 kg
    CVP: 7 (7 - 16)mmHg
   Mixed Venous O2% Sat: 70 - 70
   Total In:
                                                                  2,495 mL
                                                                    420 mL
   PO:
                                                                  1,460 mL
                                                                    100 mL
   TF:
   IVF:
                                                                  1,035 mL
                                                                    320 mL
   Blood products:
   Total out:
                                                                  1,045 mL
                                                                    490 mL
   Urine:
                                                                  1,045 mL
                                                                    490 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,450 mL
                                                                    -70 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: 7.38/34/73.[**Numeric Identifier 252**]/20/-3
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   322 K/uL
   7.7 g/dL
   123 mg/dL
   1.4 mg/dL
   20 mEq/L
   3.7 mEq/L
   23 mg/dL
   102 mEq/L
   129 mEq/L
   23.4 %
   13.9 K/uL
        [image002.jpg]
                             [**2170-11-29**]  11:39 AM
                             [**2170-11-29**]  01:31 PM
                             [**2170-11-29**]  03:20 PM
                             [**2170-11-29**]  05:00 PM
                             [**2170-11-29**]  05:02 PM
                             [**2170-11-29**]  06:54 PM
                             [**2170-11-29**]  10:59 PM
                             [**2170-11-30**]  03:38 AM
                             [**2170-11-30**]  05:29 PM
                             [**2170-12-1**]  03:37 AM
   WBC
   10.9
   11.7
   13.9
   Hct
   32
   143
   25.1
   25.0
   23.4
   Plt
   381
   414
   322
   Cr
   2.0
   1.7
   1.4
   TropT
   0.02
   TCO2
   24
   24
   24
   23
   20
   21
   Glucose
   121
   123
   123
   Other labs: PT / PTT / INR:32.0/48.6/3.2, CK / CKMB /
   Troponin-T:890/11/0.02, Differential-Neuts:84.7 %, Lymph:10.2 %,
   Mono:4.9 %, Eos:0.1 %, Lactic Acid:0.9 mmol/L, Ca++:7.9 mg/dL, Mg++:2.0
   mg/dL, PO4:2.0 mg/dL
   Imaging: TTE [**11-30**]
   Possible very small ASD or stretched PFO. Moderately dilately and
   globally hypokinetic left ventricle. Mildlly dilated RV with borderline
   normal function. Moderate mitral and tricuspid regurgitation. Moderate
   pulmonary hypertension.
   Compared with the prior study (images reviewed) of [**2169-11-18**], overall
   left ventricular systolic function is more vigorous. Estimated
   pulmonary artery pressures are higher. The severity of mitral
   regurgitation has increased and mild aortic stenosis is now present.
   EF30%
   Microbiology: blood 12/3 pending
   urine [**11-29**] neg
   cdiff [**11-30**] negative
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 ATRIAL FIBRILLATION (AFIB)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 CARDIOMYOPATHY, OTHER
 HYPERTENSION, BENIGN
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 SHOCK, SEPTIC
   75 yo M with h/o cardiomyopahy (EF 15%), atrial fibrillation, pulmonary
   embolism (on coumadin), adrenal insufficiency, and s/p several recent
   admissions following episode of Klebsilella pneumonia complicated by
   respiratory failure and septic shock. Presents to hospital with
   syncope, hypoxia, hypotension and altered mental status.
    .
   # Hypotension:  Given patient's acute kidney injury (with FeUrea of
   26%), complaint of thirst, low urine output, and physical exam
   consistent with dehydration, his hypotension could be solely attributed
   to hypovolemia.  In setting of fever to 103 in ED, leukocystosis to
   12.6, and recent admissions for sepsis, this seems the most likely
   cause of his hypotension.   We are currently targeting therapy to prior
   ESBL organism with vanc and meropenem.  C diff is another possible
   source, as patient with recent antibiotic course for PNA and several
   episodes loose stools.  There is also the concern for a cardiogenic
   component of hypotension, but with preserved central venous O2 sat this
   would seem to be less likely.  With his hypotension we will have to
   continue to titrate down pressors and maintain an effective cardiac
   output.
   - Norepinephrine to keep MAPs > 65
   - Gently hydrate with 500 mL boluses given EF of 15% and history of
   volume overload, as well as DNR/DNI status
   - continue empiric vancomycin and meropenem pending culture results
   - Follow-up blood, urine cultures, stool and sputum Cx
   - f/u c diff
   - restart home dose digoxin with the hope of improving cardiac output
   .
   # Hypoxemic respiratory failure:
   Patient was not initially complaining of dyspnea while at home. Upon
   transit to the ED was noted to have a low oxygen sat in the 70s and was
   placed on NRB and subsequently was placed on BiPAP in the ED. While in
   the emergency department, oxygen sats recovered and supplemental oxygen
   was titrated down. On the floor was maintaining oxygen sat of 100% on
   RA; however, initial ABG showed a pO2 of 56. 100% facemask was applied
   and sat increased appropriately to 441. A-a gradient difficult to
   calculate given unknown exact oxygen percent delivery with face mask.
   - Maintain patient on supplemental 3L NC and titrate down as tolerated
   - continue prn albuterol nebs
   - TTE with bubble study to rule-out intracardiac shunt as cause of his
   odd ABG findings of low pO2 despite observed normal sat
   - Consider CT chest in future to rule-out possibility of organizing
   pneumonia causing A-a gradient
   .
   # Altered Mental Status: Improved overnight with MAP > 65 following
   several fluid boluses and increased pressors.  Most likely related to
   decreased perfusion of the brain, although ICU delirium is also a
   possibility given that pt has been in and out of ICU for past several
   months. Will continue to monitor.  NCHCT negative.
   - Continue rehydration and with prn fluid boluses to maintain UOP > 30
   cc/hr and MAP > 65.
   .
   # Fever: Patient noted to be febrile to 103 rectally in the ED.
   Possible that this is component of sepsis with unknown primary source
   vs influenza. No fevers since that time.
   - Empiric vancomycin and meropenem (need to readjust meds as renal
   function worsens or improves)
   - Nasopharyngeal swab for influenza DFA neg and tamiflu stopped
   .
   # Acute kidney injury:
   Recent baseline Cr 1.1 - 1.3 upon discharge on [**2170-11-27**]. At
   presentation to the ED was Cr 2.5. Urine lytes performed in ED revealed
   a FeUrea of 26%.  Cr improved to 1.7 today.
   - Continue to trend BUN/Cr
   - Renally dose meds
   - Hold furosemide unless patient becomes acutely dyspneic
   # Hyponatremia:
   Improved to 128 from 123 at discharge on [**2170-11-27**]. 132 this AM. Will
   monitor with rehydration.
   - Trend sodium
   # COPD:
   [**Last Name (un) **] recent PFTs or overall disease status. Reported to be on home
   supplemental oxygen, though unknown when this was started.
   - Investigate indications for home oxygen and history of COPD
   - Continue home albuterol, tiotropium, fluticasone/salmeterol
   # Anemia with baseline Hct 24, current Hct 28.7:
   Likely elevated from baseline because of hemoconcentration.
   - Maintain active type and screen
   - Trend with rehydration
   # Adrenal insufficiency:
   Patient on 10 mg hydrocortisone at home.
   - Increase to 50 mg hydrocortisone given stress of acute illness (day 2
   today)
   # h/o PE, on coumadin: Remote chance that a transient PE could explain
   current presentation of hypoxia and hypotension.
   -continue coumadin with goal INR [**1-30**]
   # Atrial fibrillation:
   Stable v-paced rhythm on telemetry at this time. Digoxin 0.5 on
   admission labs.
   - Restart digoxin today as above
   - Hold metoprolol while hypotensive
   # Hypertension:
   - Hold home antihypertensives
   # Hyperlipidemia:
   - Hold atorvastatin
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2170-11-29**] 09:30 AM
   18 Gauge - [**2170-11-29**] 09:30 AM
   Arterial Line - [**2170-11-29**] 12:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2170-12-01 11:15:00 Physician Attending Progress Note
Chief Complaint: hypoxemia, shock, renal failure, arrhythmia, CHF
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   75yo M complicated PMH of adrenal insufficiency, spent [**Month (only) 1780**] in
   hospital with Klebsiella pneumonia sepsis and CHF. H/O PE/afib on
   coumadin p/w malaise and decreased PO at home, T 103, syncope and
   hypoxemia.  Norepinephrine. Likely mainly hypovolemic shock with slight
   persistent vasodilatory shock.  Negative for flu, empiric vanc/[**Last Name (un) **].
   V-paced with afib, frequent bigeminy. Cards interrogated his pacer and
   looks fine.
   Major issue is multifactorial shock:  hypovolemic, cardiogenic,
   +/-septic.
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2170-11-30**] 08:35 AM
   Biventricular hypokinesis, EF ~15%. No bubble study done but possibly
   small PFO/ASD.
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Hives;
   Vancomycin
   Diarrhea;
   Ambien (Oral) (Zolpidem Tartrate)
   Unknown;
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Unknown;
   Cephalexin
   Unknown;
   IV Dye
   Iodine Containing
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2170-12-1**] 06:00 AM
   Vancomycin - [**2170-12-1**] 09:23 AM
   Infusions:
   Norepinephrine - 0.15 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Cough
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2170-12-1**] 11:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 80 (75 - 116) bpm
   BP: 106/44(57) {0/0(0) - 0/0(0)} mmHg
   RR: 29 (20 - 30) insp/min
   SpO2: 97%
   Heart rhythm: V Paced
   Wgt (current): 67.2 kg (admission): 67.2 kg
   CVP: 5 (4 - 16)mmHg
   Mixed Venous O2% Sat: 70 - 70
                                Total In:
                                                                  2,495 mL
                                                                  1,034 mL
   PO:
                                                                  1,460 mL
                                                                    370 mL
   TF:
   IVF:
                                                                  1,035 mL
                                                                    664 mL
   Blood products:
   Total out:
                                                                  1,045 mL
                                                                    770 mL
   Urine:
                                                                  1,045 mL
                                                                    770 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,450 mL
                                                                    265 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: 7.38/34/73.[**Numeric Identifier 252**]/20/-3
   Physical Examination
   General Appearance: Well nourished, No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: Difficult to hear due to loud lung sounds.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Wheezes : exp wheezes ,
   Rhonchorous: insp squeek)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: no edema
   Skin:  Warm, Rash: chronic venous stasis, chronic toe ulcerations
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, appropriate, Oriented (to): x3, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.7 g/dL
   322 K/uL
   123 mg/dL
   1.4 mg/dL
   20 mEq/L
   3.7 mEq/L
   23 mg/dL
   102 mEq/L
   129 mEq/L
   23.4 %
   13.9 K/uL
        [image002.jpg]
                             [**2170-11-29**]  11:39 AM
                             [**2170-11-29**]  01:31 PM
                             [**2170-11-29**]  03:20 PM
                             [**2170-11-29**]  05:00 PM
                             [**2170-11-29**]  05:02 PM
                             [**2170-11-29**]  06:54 PM
                             [**2170-11-29**]  10:59 PM
                             [**2170-11-30**]  03:38 AM
                             [**2170-11-30**]  05:29 PM
                             [**2170-12-1**]  03:37 AM
   WBC
   10.9
   11.7
   13.9
   Hct
   32
   143
   25.1
   25.0
   23.4
   Plt
   381
   414
   322
   Cr
   2.0
   1.7
   1.4
   TropT
   0.02
   TCO2
   24
   24
   24
   23
   20
   21
   Glucose
   121
   123
   123
   Other labs: PT / PTT / INR:32.0/48.6/3.2, CK / CKMB /
   Troponin-T:890/11/0.02, Differential-Neuts:84.7 %, Lymph:10.2 %,
   Mono:4.9 %, Eos:0.1 %, Lactic Acid:0.9 mmol/L, Ca++:7.9 mg/dL, Mg++:2.0
   mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   Shock
   1U PRBC/4 hrs.
   Vanc/meropenem empirically for septic shock for ESBL klebsiella and
   stenotrophomonas bacteremia. (Discuss antibiotic choice with ID.)
   Continues on norepinephrine. Restarted dig yesterday.
   Hypoxemia, resp failure. Likely has undiagnosed COPD as well as
   possible cardiac shunt. Supplemental oxygen is close to home dose.
   afib, Vpaced.
   Renal failure improved.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2170-11-29**] 09:30 AM
   18 Gauge - [**2170-11-29**] 09:30 AM
   Arterial Line - [**2170-11-29**] 12:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer:
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2170-12-02 07:54:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 4**] Resident Progress Note
   Chief Complaint:
   24 Hour Events:
   - Spoke with daughter about allergies, she doesn't have any information
   about his possible allergies but says he hasn't had a reaction to
   antibiotics in the last few years that she knows of
   - Fever of 101.5, cultures sent
   - Clarified allergies with PCP: [**Name10 (NameIs) 2601**] [**Name Initial (NameIs) **] Fever/chills, Augmentin -
   nausea/vomiting, Cephalexin - uncertain (patient and PCP denied [**Name Initial (PRE) **]/o
   reaction), Bactrim - hives
   - Didn't add Timentin b/c pharmacy didn't have but would cover
   stenotrophomonas - so added doxycycline
   - Gram stain showed mixed flora, but didn't want to do induced sputum
   - Gave 1 unit PRBCs for anemia and for volume repletion
   - Weaned levophed completely
   - Add steroids back in the morning (dc'ed hydrocortisone 50mg IV q24h)
 BLOOD CULTURED - At [**2170-12-1**] 12:28 PM
 BLOOD CULTURED - At [**2170-12-1**] 12:28 PM
 SPUTUM CULTURE - At [**2170-12-1**] 12:28 PM
 URINE CULTURE - At [**2170-12-1**] 12:28 PM
 FEVER - 101.5
F - [**2170-12-1**] 12:00 PM
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Hives;
   Vancomycin
   Diarrhea;
   Ambien (Oral) (Zolpidem Tartrate)
   Unknown;
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Nausea/Vomiting
   Cephalexin
   Unknown;
   IV Dye
   Iodine Containing
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2170-12-1**] 09:23 AM
   Doxycycline - [**2170-12-1**] 08:00 PM
   Meropenem - [**2170-12-2**] 05:36 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2170-12-1**] 02:36 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-12-2**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 36
C (96.8
   HR: 104 (70 - 107) bpm
   BP: 106/44(57) {0/0(0) - 0/0(0)} mmHg
   RR: 21 (17 - 32) insp/min
   SpO2: 99%
   Heart rhythm: V Paced
   Wgt (current): 67.2 kg (admission): 67.2 kg
    CVP: 9 (5 - 233)mmHg
   Total In:
                                                                  2,950 mL
                                                                    356 mL
   PO:
                                                                    720 mL
                                                                    100 mL
   TF:
   IVF:
                                                                  1,855 mL
                                                                    256 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  2,090 mL
                                                                    530 mL
   Urine:
                                                                  2,090 mL
                                                                    530 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    860 mL
                                                                   -174 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///22/
   Physical Examination
   Gen: NAD
   CV: rrr no murmurs
   Pulm: end expiratory wheezes/squeaks at bases b/l
   Abd: +BS soft ntnd
   Ext: no edema, chronic VSD, small ulcers tops of b/l 1^st toes
   Labs / Radiology
   284 K/uL
   8.1 g/dL
   103 mg/dL
   1.2 mg/dL
   22 mEq/L
   3.7 mEq/L
   17 mg/dL
   104 mEq/L
   134 mEq/L
   25.2 %
   11.7 K/uL
        [image002.jpg]
                             [**2170-11-29**]  03:20 PM
                             [**2170-11-29**]  05:00 PM
                             [**2170-11-29**]  05:02 PM
                             [**2170-11-29**]  06:54 PM
                             [**2170-11-29**]  10:59 PM
                             [**2170-11-30**]  03:38 AM
                             [**2170-11-30**]  05:29 PM
                             [**2170-12-1**]  03:37 AM
                             [**2170-12-1**]  09:17 PM
                             [**2170-12-2**]  04:05 AM
   WBC
   10.9
   11.7
   13.9
   11.7
   Hct
   143
   25.1
   25.0
   23.4
   26.8
   25.2
   Plt
   381
   414
   322
   284
   Cr
   2.0
   1.7
   1.4
   1.3
   1.2
   TropT
   0.02
   TCO2
   24
   23
   20
   21
   Glucose
   121
   123
   123
   144
   103
   Other labs: PT / PTT / INR:34.8/65.0/3.6, CK / CKMB /
   Troponin-T:890/11/0.02, Differential-Neuts:84.3 %, Lymph:10.2 %,
   Mono:5.3 %, Eos:0.2 %, Lactic Acid:0.9 mmol/L, Ca++:8.0 mg/dL, Mg++:2.0
   mg/dL, PO4:2.4 mg/dL
[**2170-12-1**] 12:33 pm SPUTUM      Source: Expectorated.
   GRAM STAIN (Final [**2170-12-1**]):
      >25 PMNs and <10 epithelial cells/100X field.
      1+    (<1 per 1000X FIELD):   MULTIPLE ORGANISMS CONSISTENT WITH
                                    OROPHARYNGEAL FLORA.
   RESPIRATORY CULTURE (Preliminary):
[**2170-12-1**] and [**2170-11-29**] Blood cultures pending
[**2170-12-1**] Urine culture pending
[**2170-12-1**] C Diff negative
CXR today in OMR
   Assessment and Plan
   75 yo M with h/o cardiomyopahy (EF 15%), atrial fibrillation, pulmonary
   embolism (on coumadin), adrenal insufficiency, and s/p several recent
   admissions following episode of Klebsilella pneumonia complicated by
   respiratory failure and septic shock. Presented to hospital with
   syncope, hypoxia, hypotension and altered mental status.
   # Hypotension: Felt to most likely have combination septic and
   cardiogenic shock with low SvO2 two days ago.  Sepsis most likely a
   pulmonary source with h/o ESBL PNA.  Has been hemodynamically stable
   since admission and weaned off pressors.  Has been C Diff negative.
   Got 1 unit PRBC
s yesterday with good effect and appropriate hct bump.
   - Maintain MAP>60-65, will attempt without pressors
   - Continue empiric vancomycin and meropenem pending culture results,
   have added doxycycline to try to cover Stenotrophomonas
   - Follow-up blood, urine cultures, and sputum culture
   - restarted home digoxin on [**11-30**]
   # Hypoxemic respiratory failure: Patient was not initially complaining
   of dyspnea while at home. Upon transit to the ED was noted to have a
   low oxygen sat in the 70s and was placed on NRB and subsequently was
   placed on BiPAP in the ED. While in the emergency department, oxygen
   sats recovered and supplemental oxygen was titrated down. On the floor
   was maintaining oxygen sat of 100% on RA; however, initial ABG showed a
   pO2 of 56. 100% facemask was applied and sat increased appropriately to
   441. A-a gradient difficult to calculate given unknown exact oxygen
   percent delivery with face mask.
   - Maintain patient on supplemental 3L NC and titrate down as tolerated
   (is on home oxygen-unclear why, so keep on if needed)
   - continue prn albuterol nebs
   - Consider CT chest in future to rule-out possibility of organizing
   pneumonia causing A-a gradient
   # Altered Mental Status: Improved overnight after admission with MAP >
   65 following several fluid boluses and increased pressors.  Most likely
   related to decreased perfusion of the brain, although ICU delirium is
   also a possibility given that pt has been in and out of ICU for past
   several months..  NCHCT negative.
   - Continue rehydration and with prn fluid boluses to maintain UOP > 30
   cc/hr and MAP > 65.
   # Fever: Patient noted to be febrile to 103 rectally in the ED.
   Possible that this is component of sepsis with unknown primary source
   vs influenza. No fevers since that time.
   - Empiric vancomycin and meropenem (need to readjust meds as renal
   function worsens or improves)
   - Nasopharyngeal swab for influenza DFA neg and tamiflu stopped
   .
   # Acute kidney injury:
   Recent baseline Cr 1.1 - 1.3 upon discharge on [**2170-11-27**]. At
   presentation to the ED was Cr 2.5. Urine lytes performed in ED revealed
   a FeUrea of 26%.  Cr improved to 1.4 today.
   - Continue to trend BUN/Cr
   - Renally dose meds
   - Hold furosemide unless patient becomes acutely dyspneic
   # Hyponatremia:
   Improved to 128 from 123 at discharge on [**2170-11-27**]. 129 this am.. Will
   monitor with rehydration.
   # COPD: [**Last Name (un) **] recent PFTs or overall disease status. Reported to be on
   home supplemental oxygen, though unknown when this was started.
   - Investigate indications for home oxygen and history of COPD
   - Continue home albuterol, tiotropium, fluticasone/salmeterol
   # Anemia with baseline Hct 24, current Hct 28.7:
   Likely elevated from baseline because of hemoconcentration.
   - Maintain active type and screen
   - blood as above
   # Adrenal insufficiency:
   Patient on 10 mg hydrocortisone at home.
   - Increased to 50 mg hydrocortisone given stress of acute illness, will
   decrease to home dose tomorrow as has had 3 days at increased dose.
   # h/o PE, on coumadin: Remote chance that a transient PE could explain
   current presentation of hypoxia and hypotension.
   -continue coumadin with goal INR [**1-30**]
   # Atrial fibrillation:
   Stable v-paced rhythm on telemetry at this time.
   - home digoxin
   - Hold metoprolol while hypotensive
   # Hypertension:
   - Hold home antihypertensives
   # Hyperlipidemia:
   - Hold atorvastatin
   ICU Care
   Glycemic Control:
   Lines:
   Multi Lumen - [**2170-11-29**] 09:30 AM
   18 Gauge - [**2170-11-29**] 09:30 AM
   Arterial Line - [**2170-11-29**] 12:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI
   Disposition: icu for now given pressors

2170-12-03 07:21:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 4**] Resident Progress Note
   Chief Complaint:
   24 Hour Events:
   -Changed to home dose of Hydrocort
   -Sent sputum cx
   -Fe studies ordered
   -D/c'd A line
   -I/O +500 cc at 2100, but no lasix ordered b/c still maps 55-60.
   -coumadin held for high INR
 ARTERIAL LINE - STOP [**2170-12-2**] 12:02 PM
 SPUTUM CULTURE - At [**2170-12-2**] 05:02 PM
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Hives;
   Vancomycin
   Diarrhea;
   Ambien (Oral) (Zolpidem Tartrate)
   Unknown;
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Nausea/Vomiting
   Cephalexin
   Unknown;
   IV Dye
   Iodine Containing
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2170-12-1**] 09:23 AM
   Doxycycline - [**2170-12-2**] 08:00 PM
   Meropenem - [**2170-12-3**] 05:58 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2170-12-2**] 08:24 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-12-3**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.2
C (97.2
   HR: 83 (70 - 88) bpm
   BP: 130/56(71) {102/38(54) - 130/57(71)} mmHg
   RR: 25 (19 - 31) insp/min
   SpO2: 93%
   Heart rhythm: V Paced
   Wgt (current): 67.2 kg (admission): 67.2 kg
    CVP: 221 (221 - 230)mmHg
   Total In:
                                                                  1,793 mL
                                                                    250 mL
   PO:
                                                                    870 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    923 mL
                                                                    150 mL
   Blood products:
   Total out:
                                                                  1,075 mL
                                                                    450 mL
   Urine:
                                                                  1,075 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    718 mL
                                                                   -200 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///22/
   Physical Examination
   Gen: NAD, alert and conversant
   CV: RRR no murmurs
   Pulm: Subtantial rhonchi and expiratory wheezes throughout lung fields
   bilaterally, also with productive wet cough, decreased breath sounds at
   bases L>R
   Abd: +BS soft, NT, ND
   Ext: no edema, chronic hyperpigmentation and venous stasis changes, no
   tenderness, small ulcers tops of b/l 1^st toes
   Labs / Radiology
   270 K/uL
   8.1 g/dL
   96 mg/dL
   1.3 mg/dL
   22 mEq/L
   4.3 mEq/L
   19 mg/dL
   104 mEq/L
   132 mEq/L
   24.8 %
   9.5 K/uL
        [image002.jpg]
   Hct at baseline
                             [**2170-11-29**]  05:00 PM
                             [**2170-11-29**]  05:02 PM
                             [**2170-11-29**]  06:54 PM
                             [**2170-11-29**]  10:59 PM
                             [**2170-11-30**]  03:38 AM
                             [**2170-11-30**]  05:29 PM
                             [**2170-12-1**]  03:37 AM
                             [**2170-12-1**]  09:17 PM
                             [**2170-12-2**]  04:05 AM
                             [**2170-12-3**]  04:35 AM
   WBC
   10.9
   11.7
   13.9
   11.7
   9.5
   Hct
   143
   25.1
   25.0
   23.4
   26.8
   25.2
   24.8
   Plt
   381
   414
   322
   284
   270
   Cr
   2.0
   1.7
   1.4
   1.3
   1.2
   1.3
   TropT
   0.02
   TCO2
   23
   20
   21
   Glucose
   121
   123
   123
   144
   103
   96
   Other labs: PT / PTT / INR:39.3/65.0/4.1, CK / CKMB /
   Troponin-T:890/11/0.02, Differential-Neuts:84.3 %, Lymph:10.2 %,
   Mono:5.3 %, Eos:0.2 %, Lactic Acid:0.9 mmol/L, Ca++:8.2 mg/dL, Mg++:1.7
   mg/dL, PO4:2.1 mg/dL
   Iron: 16
   calTIBC: 215
   Ferritn: 288
   TRF: 165
[**2170-12-2**] 3:00 pm SPUTUM     Site: EXPECTORATED
      Source: Expectorated.
                            **FINAL REPORT [**2170-12-2**]**
   GRAM STAIN (Final [**2170-12-2**]):
      <10 PMNs and >10 epithelial cells/100X field.
      Gram stain indicates extensive contamination with upper respiratory
      secretions. Bacterial culture results are invalid.
      PLEASE SUBMIT ANOTHER SPECIMEN.
   RESPIRATORY CULTURE (Final [**2170-12-2**]):
         TEST CANCELLED, PATIENT CREDITED.
[**2170-12-1**] and [**2170-11-29**] Blood cultures pending
[**2170-12-1**] Urine culture pending
[**2170-12-1**] C Diff negative
   No Chest Xray today
   Assessment and Plan
   75 yo M with h/o cardiomyopahy (EF 15%), atrial fibrillation, pulmonary
   embolism (on coumadin), adrenal insufficiency, and s/p several recent
   admissions following episode of Klebsilella pneumonia complicated by
   respiratory failure and septic shock. Presented to hospital with
   syncope, hypoxia, hypotension and altered mental status.
   # Hypotension: Felt to most likely have combination hypovolemic, septic
   and cardiogenic shock with low SvO2 two days ago.  Sepsis most likely a
   pulmonary source with h/o ESBL PNA.  Has been hemodynamically stable
   since admission and weaned off pressors.  Has been C Diff negative.
   Got 1 unit PRBC
s yesterday with good effect and appropriate hct bump.
   Now feel like biggest barrier to improvement is volume overload due to
   low EF and recent aggressive fluid resuscitation.
   - Continue empiric vancomycin and meropenem pending culture results for
   likely pulmonary source, have added doxycycline to try to cover
   Stenotrophomonas (today is day 3 of doxy, day 5 of vanc/[**Last Name (un) **])
   - Follow-up blood, urine cultures, and sputum culture
   - Likely has some CHF at this time as is significantly volume up from
   admission, goal -1L negative daily
   - Restart lasix, will give 40mg IV Lasix now and reassess I/O
s in the
   afternoon
 may benefit from a Lasix drip to diurese
   - restarted home digoxin on [**11-30**]
   - will restart home CHF meds later today vs tomorrow including losartan
   and metoprolol
   - daily weights, will need close follow-up with CHF team as an
   outpatient
   - need to check digoxin level as doxy and digoxin can interact
   # Hypoxemic respiratory failure: Likely related to recurrent
   pneumonias.
   - Maintain patient on supplemental 3L NC and titrate down as tolerated
   - continue prn albuterol nebs
   # Altered Mental Status: Has improved with IV fluid resuscitation and
   blood pressure improvement.
   - Continue to monitor
   # Acute renal failure: Creatinine has decreased to 1.3 from 2.0 on
   admission.  Most liekly improving with better cardiovascular status.
   - Renally dose meds
   # Hyponatremia: Improved to 132 at this time, will monitor
   # COPD: Unknown recent PFTs or overall disease status. Reported to be
   on home supplemental oxygen, though unknown when this was started.
   - Continue home albuterol, tiotropium, fluticasone/salmeterol
   # Anemia with baseline Hct 24, currently close to baseline although
   given 1 unit PRBC
s two days ago with appropriate bump
   - Maintain active type and screen
   - Guaiac positive stools, iron studies likely iron def anemia
   # Adrenal insufficiency: Patient on 10 mg hydrocortisone at home and
   was getting 50mg IV hydrocort x 3 days here for stress of acute
   illness.
   - Now back on home dose
   # H/o PE, on coumadin: INR elevated today so will hold Coumadin dose
   today.  Unclear risk vs benefit of Coumadin for this patient
   - Will hold for now given elevated INR
   # Atrial fibrillation: Stable v-paced rhythm on telemetry at this time.
   - On home digoxin
   - Hold metoprolol while hypotensive
   # Hypertension: Holding home antihypertensives
   # Hyperlipidemia: Holding atorvastatin
   # Goals of care: Need to discuss with patient regarding disposition as
   does not want to go to rehab but also likely not going to be able to
   take care of his sister/himself at home after discharge.
   - PT consult today
   ICU Care
   Diet: Regular, cardiac-heart healthy
   Glycemic Control:  None
   Lines: Multi Lumen - [**2170-11-29**] 09:30 AM
   18 Gauge - [**2170-11-29**] 09:30 AM
   Arterial Line - [**2170-11-29**] 12:00 PM
 will d/c A-line today
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: With patient and daughter
   [**Name (NI) 156**] status: DNR/DNI
   Disposition: can call out today, possibly to [**Hospital1 1276**] as major issue will
   likely be fluid management and may need lasix gtt

2170-12-03 09:17:00 Physician Attending Progress Note
Chief Complaint: Septic shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2170-12-2**] 12:02 PM
 SPUTUM CULTURE - At [**2170-12-2**] 05:02 PM
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Hives;
   Vancomycin
   Diarrhea;
   Ambien (Oral) (Zolpidem Tartrate)
   Unknown;
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Nausea/Vomiting
   Cephalexin
   Unknown;
   IV Dye
   Iodine Containing
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2170-12-1**] 09:23 AM
   Meropenem - [**2170-12-3**] 05:58 AM
   Doxycycline - [**2170-12-3**] 08:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Ear, Nose, Throat: No(t) Dry mouth
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, Edema, No(t)
   Tachycardia, Orthopnea
   Nutritional Support: No(t) NPO
   Respiratory: Cough, Dyspnea, Tachypnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2170-12-3**] 09:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 35.9
C (96.7
   HR: 75 (70 - 83) bpm
   BP: 123/62(76) {102/38(54) - 130/62(76)} mmHg
   RR: 26 (19 - 31) insp/min
   SpO2: 99%
   Heart rhythm: V Paced
   Wgt (current): 67.2 kg (admission): 67.2 kg
   CVP: 221 (221 - 230)mmHg
   Total In:
                                                                  1,793 mL
                                                                    450 mL
   PO:
                                                                    870 mL
                                                                    200 mL
   TF:
   IVF:
                                                                    923 mL
                                                                    250 mL
   Blood products:
   Total out:
                                                                  1,075 mL
                                                                    570 mL
   Urine:
                                                                  1,075 mL
                                                                    570 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    718 mL
                                                                   -120 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///22/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI No(t) Normal, No(t) Hyperdynamic), (S1: Normal),
   (S2: Normal), (Murmur: Systolic), [**2-2**] holosyst
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Crackles : scattered, No(t) Bronchial: , No(t) Wheezes
   : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, No(t) Unable to stand
   Skin:  Warm, pressure injury both great toes
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, No(t) Sedated,
   No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   8.1 g/dL
   270 K/uL
   96 mg/dL
   1.3 mg/dL
   22 mEq/L
   4.3 mEq/L
   19 mg/dL
   104 mEq/L
   132 mEq/L
   24.8 %
   9.5 K/uL
        [image002.jpg]
                             [**2170-11-29**]  05:00 PM
                             [**2170-11-29**]  05:02 PM
                             [**2170-11-29**]  06:54 PM
                             [**2170-11-29**]  10:59 PM
                             [**2170-11-30**]  03:38 AM
                             [**2170-11-30**]  05:29 PM
                             [**2170-12-1**]  03:37 AM
                             [**2170-12-1**]  09:17 PM
                             [**2170-12-2**]  04:05 AM
                             [**2170-12-3**]  04:35 AM
   WBC
   10.9
   11.7
   13.9
   11.7
   9.5
   Hct
   143
   25.1
   25.0
   23.4
   26.8
   25.2
   24.8
   Plt
   381
   414
   322
   284
   270
   Cr
   2.0
   1.7
   1.4
   1.3
   1.2
   1.3
   TropT
   0.02
   TCO2
   23
   20
   21
   Glucose
   121
   123
   123
   144
   103
   96
   Other labs: PT / PTT / INR:39.3/65.0/4.1, CK / CKMB /
   Troponin-T:890/11/0.02, Differential-Neuts:84.3 %, Lymph:10.2 %,
   Mono:5.3 %, Eos:0.2 %, Lactic Acid:0.9 mmol/L, Ca++:8.2 mg/dL, Mg++:1.7
   mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 ATRIAL FIBRILLATION (AFIB)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 CARDIOMYOPATHY, OTHER
 HYPERTENSION, BENIGN
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 SHOCK, SEPTIC
   He is gradually improving.  States his breathing is near baseline but
   SOB with min exertion. Still 6L over adm weight.  CXR has worsened over
   last several days as his I&O have been positive. We are restarting
   furosemide, with aim of neg 1-2 L today. Will also restart losartan if
   he tolerates lasix.  [**Month (only) 8**] need a furosemide gtt to achieve adequate
   diuresis.  Suspect his MR is significant so might tolerate lower BP to
   achieve afterload reduction.  Will repeat echo when stable.  Needs good
   plan for increased home services prior to discharge.
   ICU Care
   Nutrition:
   Comments: full diet
   Glycemic Control:
   Lines:
   Multi Lumen - [**2170-11-29**] 09:30 AM
   18 Gauge - [**2170-12-3**] 04:00 AM
   20 Gauge - [**2170-12-3**] 04:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: DNR / DNI
   Disposition :Transfer to floor to [**Hospital Unit Name **]
   Total time spent: 35 minutes
   Patient is critically ill